US06541473B2
cis-N-[4(2,4-Dihydroxyphenyl)cyclohexyl]-N′-phenylurea
A solution of phenylisocyanate (0.015 ml, 0.13 mmol), triethylamine (0.03 ml), 4-dimethylaminopyridine (catalytic) and cis-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl) cyclohexylamine (0.043 g) in dichloroethane (4 ml) was stirred at room temperature for 17 hr. The mixture was partitioned between saturated aqueous sodium hydrogen carbonate (5 ml) and dichloromethane (5 ml). The aqueous phase was extracted with dichloromethane (2×5 ml) and the combined organic extracts washed with brine (7 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting oil was dissolved in dichloromethane (6 ml) and stirred rapidly with water (3 ml) and trifluoroacetic acid (3 ml) for 60 hr. Toluene (15 ml) was added and the solution concentrated in vacuo. Purification via flash chromatography (SiO2, ethyl acetate/petroleum ether) afforded the title compound (0.013 g, 30%) as a colourless solid. 6H (CD3OD) 1.32-1.46 (2H, m), 1.53-1.69 (2H, m), 1.90 (2H, m), 2.17 (2H, m), 2.83 (1H, m), 3.65 (1H, m), 6.28 (2H, m), 6.94 (1H, d), 7.00 (1H, m), 7.27 (2H, m) and 7.38 (2H, m); m/s(ES+) 327.20 (M+H)+.

reactant | phenylisocyanate | 0.13 mmol, 0.015 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | triethylamine | 0.03 ml | C(C)N(CC)CC | C6H15N
reactant | cis-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl) cyclohexylamine | 0.043 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@H]1CC[C@H](CC1)N | C24H45NO2Si2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloroethane | 4 ml | ClC(C)Cl | C2H4Cl2
product | cis-N-[4(2,4-Dihydroxyphenyl)cyclohexyl]-N′-phenylurea | 0.013 g, 30% | OC1=C(C=CC(=C1)O)[C@H]1CC[C@H](CC1)NC(=O)NC1=CC=CC=C1 | C19H22N2O3
